US20010056212A1
In a 500-mL autoclave, charged were 70 g (0.76 mol) of glycerin, 0.7 g (2.3 mmol) of bis(acetylacetonato)palladium (II), 2.7 g (5.0 mmol) of triphenylphosphine-2,2′-disulfonic acid dipotassium salt dihydrate and 35 g of water. The mixture was heated to 80° C., whereby a water-soluble liquid phase was obtained. After cooling, a hydrocarbon solvent phase containing 100 g (1.85 mol) of 1,3-butadiene dissolved in 100 g of n-octane was introduced at a time into the autoclave. While stirring, the mixture was heated to 80° C. again. The initial pressure in the autoclave showed 0.9 Mpa. After stirring at 80° C. for 12 hours, the water phase and unreacted butadiene were removed. The residue was washed with water and n-octane was removed, whereby 106 g of octadienyl glyceryl ether was obtained as a pale yellow transparent oil.

reactant | glycerin | 0.76 mol, 70 g | OCC(O)CO | C3H8O3
reactant | water | 35 g | O | H2O
reactant | 1,3-butadiene | 1.85 mol, 100 g | C=CC=C | C4H6
solvent | n-octane | 100 g | CCCCCCCC | C8H18
catalyst | bis(acetylacetonato)palladium | 2.3 mmol, 0.7 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Pd+2]
product | octadienyl glyceryl ether | 106 g | C(C(O)CO)OC=CC=CCCCC | C11H20O3
